US05631401
N-(2-Methoxymethyl-N-(4-phenoxybenzyl)amine
A mixture of 4-phenoxybenzaldehyde (1.98 g, 10 mmol) and 2-methoxyethylamine (0.751 g, 10 mmol) in ethanol (10 mL) was stirred for 1 hour. Acetic acid (1 mL) and sodium cyanoborohydride (1M in THF, 10 mL) were added, and the reaction was stirred for 14 hours. The reaction was then partitioned between ether and 10% aqueous sodium hydroxide solution. The organic layer was further washed with water and brine, dried over anhydrous potassium carbonate, filtered and concentrated. The title compound was pure as judged by NMR and was used for next step without further purification. 1H NMR (300 MHz, CDCl3) δ 7.30 (m, 4 H), 7.09 (t, 1 H), 6.98 (m, 4 H), 3.80 (s, 2 H), 3.51 (t, 2 H), 3.37 (s, 3 H), 2.51 (t, 2 H).

reactant | 4-phenoxybenzaldehyde | 10 mmol, 1.98 g | O(C1=CC=CC=C1)C1=CC=C(C=O)C=C1 | C13H10O2
reactant | 2-methoxyethylamine | 10 mmol, 0.751 g | COCCN | C3H9NO
reactant | Acetic acid | 1 mL | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 1M, 10 mL | C(#N)[BH3-].[Na+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 2-Methoxymethyl-N-(4-phenoxybenzyl)amine | COCC1=C(CN)C=CC(=C1)OC1=CC=CC=C1 | C15H17NO2
